US09278968B2
To a mixture of 6.96 g of tert-butyl (4R)-4-cyano-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate, 12.5 g of triethylamine hydrochloride, and 105 ml of toluene was added 5.84 g of sodium azide, followed by stirring at 103° C. for 3 hours. The insoluble materials were separated by filtration and the filtrate was concentrated. The obtained residue was purified twice by silica gel column chromatography to obtain 7.65 g of tert-butyl (4R)-2,2,4-trimethyl-4-(2H-tetrazol-5-yl)-1,3-oxazolidine-3-carboxylate.

reactant | tert-butyl (4R)-4-cyano-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate | 6.96 g | C(#N)[C@]1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C | C12H20N2O3
reactant | triethylamine hydrochloride | 12.5 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 5.84 g | [N-]=[N+]=[N-].[Na+]
solvent | toluene | 105 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (4R)-2,2,4-trimethyl-4-(2H-tetrazol-5-yl)-1,3-oxazolidine-3-carboxylate | 7.65 g | CC1(OC[C@](N1C(=O)OC(C)(C)C)(C=1N=NNN1)C)C | C12H21N5O3
